US07309703B2
To a stirred solution of 1.01 g (5.0 mmol) of 1-chloro-2, 6-dinitrobenzene and 0.93 g (5.0 mmol) of 1-tert-butyloxycarbonylpiperazine in acetonitrile (5 mL) was added 1.38 g (10 mmol) of K2CO3. The mixture was heated to reflux for 48 h. The solvent was removed under reduced pressure. The crude product was partitioned between EtOAc (100 mL) and 20 mL of H2O. The organic layer was washed with H2O (2×20 mL), dried over Na2SO4 and concentrated. Column chromatography (silica, 10-20% EtOAc/hexanes) provided 1.31 g (85%) of 4-(2,6-dinitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester TLC (silica, 20% EtOAc/hexanes): Rf=0.35. 1H NMR (400 MHz, CDCl3): 7.75 (d, J=8.2 Hz, 2H), 7.25 (t, J=8.2 Hz, 1H), 3.30 (m, 4H), 2.95 (m, 2H), 1.44 (s, 9H).

reactant | 1-chloro-2, 6-dinitrobenzene | 5.0 mmol, 1.01 g | ClC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | 1-tert-butyloxycarbonylpiperazine | 5.0 mmol, 0.93 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | K2CO3 | 10 mmol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 4-(2,6-dinitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.31 g, 85% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C15H20N4O6
